US05136868
A stirred mixture of 0.38 g (0.0066 mole) of potassium fluoride and 0.85 g (0.0022 mole) of 1-(2,4-dichloro-5-methoxyphenyl)-1,4-dihydro-4-[2(methylsulfonyloxy)ethyl]-5H-tetrazol-5-one in 35 mL of N,N-dimethylformamide was heated at 120°-130° C. for 2 hours, then stirred at room temperature for 3 days. The reaction mixture was poured into ice water then extracted with diethyl ether. The ether extract was dried over anhydrous magnesium sulfate, filtered, and the filtrate evaporated under reduced pressure to leave a residue. The residue was purified by column chromatography on silica gel, eluting with methylene chloride, then recrystallized from ethyl acetate:heptane to yield 0.25 g of 1-(2,4-dichloro-5-methoxyphenyl)-4-ethenyl-1,4-dihydro-5H-tetrazol-5-one, mp 142°-143° C.

reactant | potassium fluoride | 0.0066 mole, 0.38 g | [F-].[K+]
reactant | 1-(2,4-dichloro-5-methoxyphenyl)-1,4-dihydro-4-[2(methylsulfonyloxy)ethyl]-5H-tetrazol-5-one | 0.0022 mole, 0.85 g | ClC1=C(C=C(C(=C1)Cl)OC)N1N=NN(C1=O)CCOS(=O)(=O)C | C11H12Cl2N4O5S
solvent | N,N-dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | 1-(2,4-dichloro-5-methoxyphenyl)-4-ethenyl-1,4-dihydro-5H-tetrazol-5-one | 0.25 g | ClC1=C(C=C(C(=C1)Cl)OC)N1N=NN(C1=O)C=C | C10H8Cl2N4O2
